US05236952
2 g of 3',4'-dimethoxy-5'-nitroacetophenone are treated with 30 ml of constant-boiling hydrobromic acid and stirred at 140° for 2.5 hours. After cooling the mixture is poured into 200 ml of ice-water and extracted three times with 100 ml of ethyl acetate each time. The organic phase is washed twice with 25 ml of sodium chloride solution each time, dried over sodium sulfate and evaporated. The product obtained is filtered with ethyl acetate over a 20-fold amount of silica gel. By recrystallization of the material obtained from water there is obtained 3',4'-dihydroxy-5'-nitroacetophenone in the form of yellow crystals of m.p. 159°-160°.

reactant | 3',4'-dimethoxy-5'-nitroacetophenone | 2 g | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C(C)=O | C10H11NO5
reactant | hydrobromic acid | 30 ml | Br | BrH
product | 3',4'-dihydroxy-5'-nitroacetophenone | OC=1C=C(C=C(C1O)[N+](=O)[O-])C(C)=O | C8H7NO5
